US04999378
(1) Methyl 4-[3-[N-acetyl -N-(4-chlorophenyl)amino]propoxy]benzoate
Methyl 4-[3-[N-(4-chlorophenyl)amino]propoxy]benzoate (1.2 g) was dissolved in pyridine (15 ml), and acetic anhydride (0.71 ml) was added thereto. The mixture was stirred at room temperature for 14 hours and concentrated under reduced pressure. The residue was separated into layers by adding ethyl acetate and diluted hydrochloric acid. The organic layer was washed successively with-water, saturated aqueous sodium bicarbonate solution and water, and concentrated under reduced pressure to give the desired product (1.38 g). mp. 68°-69° C.

reactant | Methyl 4-[3-[N-(4-chlorophenyl)amino]propoxy]benzoate | 1.2 g | ClC1=CC=C(C=C1)NCCCOC1=CC=C(C(=O)OC)C=C1 | C17H18ClNO3
reactant | acetic anhydride | 0.71 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 4-[3-[N-acetyl -N-(4-chlorophenyl)amino]propoxy]benzoate | 1.38 g | C(C)(=O)N(C1=CC=C(C=C1)Cl)CCCOC1=CC=C(C(=O)OC)C=C1 | C19H20ClNO4
